US04273782
Concentrated ammonium hydroxide (10 ml, S.G. 0.880) was added to a solution of 1-ethoxycarbonylmethyl-3-(1-imidazolylmethyl) indole (0.50 g) in ethanol (5 ml) and the mixture was stirred at room temperature for 2 hours. The solid was filtered off, washed with water, dried and crystallised from ethanol/petrol (b.p. 60°-80° C.) to give 1-carbamoylmethyl-3-(1-imidazolylmethyl)indole (0.24 g), m.p. 211°-212° C. Found: C, 65.65; H, 5.58; N, 21.69. C14H14N4O requires: C, 66.12; H, 5.55; N, 22.04.

reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
reactant | 1-ethoxycarbonylmethyl-3-(1-imidazolylmethyl) indole | 0.50 g | C(C)OC(=O)CN1C=C(C2=CC=CC=C12)CC=1NC=CN1 | C16H17N3O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-carbamoylmethyl-3-(1-imidazolylmethyl)indole | 0.24 g | C(N)(=O)CN1C=C(C2=CC=CC=C12)CC=1NC=CN1 | C14H14N4O
